US09290485B2
a) 6-amino-4-chloro-2-methylnicotinonitrile
A suspension of sodium 6-amino-3-cyano-2-methylpyridin-4-olate (690 mg, 4.03 mmol, prepared in analogy to WO2001062233A2 and isolated as sodium salt) in PCl3 (3.50 ml, 40.3 mmol) and POCl3 (0.94 ml, 10.1 mmol) was heated to reflux for 12 h. After cooling to room temperature, the reaction mixture was carefully given onto 2N NaOH (200 ml) and 50 g ice. The mixture was extracted with DCM (7×50 ml), and the combined organic extracts were dried over Na2SO4, filtered and concentrated. The crude product was used without additional purification. LCMS RtM=1.45 min, [M+H]+=168.1.

reactant | sodium 6-amino-3-cyano-2-methylpyridin-4-olate | 4.03 mmol, 690 mg | NC1=CC(=C(C(=N1)C)C#N)[O-].[Na+]
reactant | PCl3 | 40.3 mmol, 3.50 ml | P(Cl)(Cl)Cl | Cl3P
reactant | POCl3 | 10.1 mmol, 0.94 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | NaOH | 2N, 200 ml | [OH-].[Na+]
product | 6-amino-4-chloro-2-methylnicotinonitrile | NC1=NC(=C(C#N)C(=C1)Cl)C | C7H6ClN3
